US20010021718A1
ethyl (2S)-2{[(2R)-2-(4,4-dimethyl-2-oxopentyl)-4-pentenoyl]amino}3-hydroxypropanoate
A solution (2R)-2-(4,4-dimethyl-2-oxopentyl)-4-pentenoic acid (Preparation 112) (15.91 g, 74.3 mmol), 1-hydroxybenzotriazole hydrate (11.00 g, 81.4 mmol), L-serine ethylester hydrochloride (13.84 g, 81.6 mmol) and N,N-diisopropylethylamine (27 ml, 156.0 mmol) in dichloromethane (280 ml) was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (15.67 g, 81.7 mmol) and stirred at room temperature for 18 hours under a nitrogen atmosphere. The reaction mixture was diluted with dichloromethane and washed with water, aqueous citric acid (2M), saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulphate and filtered. The solvent was removed under reduced pressure to afford the title-compound as a yellow oil (23.8 g).

reactant | (2R)-2-(4,4-dimethyl-2-oxopentyl)-4-pentenoic acid | 74.3 mmol, 15.91 g | CC(CC(C[C@H](C(=O)O)CC=C)=O)(C)C | C12H20O3
reactant | 1-hydroxybenzotriazole hydrate | 81.4 mmol, 11.00 g | O.ON1N=NC2=C1C=CC=C2
reactant | L-serine ethylester hydrochloride | 81.6 mmol, 13.84 g | Cl.C(C)OC([C@@H](N)CO)=O
reactant | N,N-diisopropylethylamine | 156.0 mmol, 27 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 81.7 mmol, 15.67 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 280 ml | ClCCl | CH2Cl2
product | ethyl (2S)-2{[(2R)-2-(4,4-dimethyl-2-oxopentyl)-4-pentenoyl]amino}3-hydroxypropanoate | 23.8 g | CC(CC(C[C@H](C(=O)N[C@H](C(=O)OCC)CO)CC=C)=O)(C)C | C17H29NO5
